Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ female with hx of AT3 deficiency on coumadin s/p 2DVTs and 
___ s/p ablation c/o 30 sec episodes of LOC x 4 today at ___. 
Pt states she started feelign unwell 1 wk ago. Pt was driving 
her car, had a "blackout" (unwitnessed), woke up after collision 
with airbag deployment. Taken to ___, neck was 
clearned, head CT negative. No further w/u was done. + constant 
nausea and increasing headaches since then (pt has a h/o 
migraines).  
  
Yesterday, pt went for a scheduled appt at her hematologist's 
office. While on exam table, feeling, nauseated, unwell, dizzy, 
sensation of room spinning. On exam + tachy to 140s. BP 120/100 
(usual HR ___ due to h/o ablation for ___). Not feeling 
well, +L frontal headache and L sided lip tingling with a 
sensation of a drooping. +dry mouth. Referred to urgent care and 
NEDH, +LOC another time after getting up from bed to go to the 
bathroom (witnessed colllapse by RN). ___ episode in CT scan, 
where the patient was in a state that she could hear RNs voices 
calling to her, but was not able to respond. During the episode, 
her eyes were closed, her breathing was slightly sonorous and 
she seemed unresponsive to voices.. These resolved in 30 seconds 
on their own. Nurse who witnessed this stated there was she 
witnessed eyelid fluttering.  
At urgent care, patient's VS at the office were reported as 
following: HR 74; O2 sat 100%ra, BP 112/68. Nothing significant 
on exam. Head CT was negative for a bleed.  
  
Transferred to ___ from ___ ICU for further care. Admitted to 
the floor. EP/Cardiology and neurology consult were recommended, 
but not called in the ED.  
  
ED Course: Patient has had no further episodes of syncope while 
at ___ ED. HR 55-60, sinus. CTA was done to rule out PE and 
was negative.  
  
ROS: + cough. LOC as above. Tm 99.3. Pt reports h/o migraines 
which are difficult to control. + usual aura with tingling of 
hands and feet. +feelings of palpitations today. No CP. Pt 
reports that she feels her HR go up when changing positions from 
sitting to standing. Pt also reports having h/o 1 documented 
seizure (which was presumably due to wellbutrin, several other 
episdoes of "blacking out" when she was younger. Reportedly had 
EEGs showing toxic-metabolic "slowing," but no seizure activity. 
 
 
Past Medical History:
1. Asthma.  
2. Questionable adrenal insufficiency, which was worked up here 
at ___ during her last admission with 
inconclusive results. The patient states that she saw an 
endocrinologist as an outpatient and was told not to have 
adrenal insufficiency. This had been suspected back in ___ 
because of recurrent hypotension and presyncopal episodes.  
3. History of fibromyalgia and chronic fatigue syndrome.  
4. History of migraine headaches.  
5. History of DVT with functional antithrombin III deficiency on 
 
chronic anticoagulation.  
6. History of bilateral pleural effusions when hospitalized in  
___.  
7. Seizure disorder, which presumably happened secondary to  
Wellbutrin.  
8. Depression with borderline personality disorder.  
9. Status post left knee reconstruction surgery on ___.  
10. Status post multiple knee arthroscopies.  
11. Status post arthroscopic chondroplasty.  
12. Chronic pain syndrome.  
13. The patient has history of dysphonia, which she states 
started  
after her last surgery. She underwent evaluation by Dr. ___ 
___ did not find any vocal cord abnormality.  
 
Social History:
There is no reported history of smoking or alcohol abuse. denies 
IVDU. denies illicits. was a ___, s/p multiple knee 
injuries.  

 
Physical Exam:
VS: T 97.3; BP 97/52 (pt usually runs BPs 80-90s); HR ___ RN 
(60 on re-check by MD). 97% ra.  
GEN: young female, NAD.  
HEENT: MMM. PERRLA, EOMI. no scleral icterus. Neck is supple. 
ROM is full. No tenderness. Carotids: no bruits  
RESP: CTAB. normal lung exam  
CV: bradycardia. regular. ___ systolic murmur at apex  
ABD: +bs. soft, NT, ND, no HSM. No rebound.  
EXT: no rashes, no edema.  
NEURO:  
Stength: ___ ___  
___ UE  
DTRs 2+ throughout  
downgoing toes  
CNII-XII intact  
gait not tested.  
 
Pertinent Results:
142  ___   AGap=15 
 
3.6  19  0.9  

Ca: 9.3 Mg: 2.4 P: 2.8

Trop-T: <0.01  CK: 127  MB: 2  

ALT: 10 AP: 81 Tbili: 0.3 Alb: 4.4 
AST: 22 LDH: 222

TSH:1.1 

           85 
9.3 > 12.2 < 630 
      36.0  

N:70.2 L:22.2 M:3.9 E:3.1 Bas:0.6 

___: 46.3  PTT: 38.4  INR: 5.2  

  
CXR: No acute cardiopulmonary process detected.  

EKG: in ED. Sinus brady. L axis. abnormal P waves. NO St-T 
changes.  

CTA Chest ___:    
1. No pulmonary embolism or dissection detected. The lung 
parenchyma is  
normal in appearance without acute abnormality detected.  
2. Hypoattenuating lesions within the liver one of which 
represents a simple cyst, the others too small to adequately 
characterize and may also represent cysts.  
.
ECHO ___
No PFO/ASD seen. Mildly dilated right ventricle with preserved 
global and regional biventricular systolic function. No outflow 
tract obstruction or significant valvular disease seen.
.
MR head 
1. A few FLAIR hyperintense lesions, scattered in the cerebral 
white matter, which are non-specific and can be 
post-inflammatory, post-infectious, demyelinating, or related to 
vasculitis etiology. No enhancement is noted in these lesions.

Clinical correlation is recommended.

2. Patent major intracranial and extracranial arteries (carotid 
and vertebral). No focal flow-limiting stenosis, occlusion or 
aneurysm more than 3 mm, within the resolution of MR angiogram.

3. Increased signal in the sphenoid sinus, from fluid versus 
mucosal thickening, moderate.

(Study is somewhat limited due to scanner-related issues and 
artifacts).
.
Exercise Stress ___ 
IMPRESSION: Poor functional exercise tolerance for age. 
Symptomatic 
drop in blood pressure noted with exercise. Orthostatic change 
in heart 
rate at baseline as described in the full report; however, 
appropriate heart rate response to exercise. No exercise-induced 
tachy- or 
bradyarrhythmias. Prolonged QT interval. 

 
Brief Hospital Course:
___ year old female with tachyarrythmia s/p ablation, AT3 
deficiency on coumadin, admitted for recurrent loss of 
consciousness.

# LOSS OF CONSCIOUSNESS: Recurrent problem over the past ___ years 
involving two car accidents and multiple episodes of loss of 
consciousness.  Neurology consult was called and the team feels 
that this could be from POTS (postural orthostatic tachycardic 
syndrome).  She demonstrated to be persistently orthostatic with 
symptoms despite volume repletion.  Seizure was not felt to be 
the cause of her LOC.  A tilt table test was done, which the 
prelim results showed to be POTS as she was not orthostatic.  EP 
consult was also called given her history of tachyarrythmia that 
was ablated.  They noted an intermittent atrial tachy arrythmia 
and intermittent accelerated junctional escape rhythm.  The EP 
team agreed that her repeated episodes of LOC was more likely 
from POTS than from dysrhythmia.  She was started on Florinef, 
midodrine and salt tabs.  Recommend 10gram salt per day.   Also 
seen by Dr. ___ from autonomics who will follow 
patient.
Patient will follow up with autonomics and EP after discharge.  
.
# Bradycardia - noted to be have baseline HR into ___.  
Several times had a jnctional rhythm versus sinus bradycardia.  
EP was consulted and they recommended that her low HR was not 
contributing to her symptoms but rather the tachyarrythmia. She 
underwent stress test on ___ which revealed apprpriate HR 
response with exercise, but did have an abnormal tachycardia 
with standing up. Pacemaker was discussed, but EP did not think 
that this would be indicated at this time as her symptoms were 
the same at a HR of ___ to ___.  

# MIGRAINES: She has difficult to control migraines.  She 
continued home meds inlcuding Topamax, Lamictal, Verapermil and 
Klonazepam.  Frova was not on our hospital formulary and she 
took Imitrex instead.  Intermittently, she has required 
dilaudid.  Verapamil was discontinued incase it was contributing 
to bradycardia.  Also require imitrex prn.

# DEPRESSION: She has long history of depression and carries a 
diagnosis of Borderline Personality.  She was continued on home 
Effexor.
  
# ATIII deficiency: She has a history of DVTs and was discovered 
to have Antithrombin III deficiency.  She had been on coumadin 
since ___, but has been having trouble titrating her 
INR to goal of 2.5 to 3.  Her INR was supertherapeutic on 
admission and then titrated up.  She was on 5 mg coumadin on 
___ with INR of 1.9. Increased to 7mg on ___ and INR was 3.1 
on ___ so coumadin dose changed to 6mg. INR 4.8 on ___, 
coumadin held on ___. Latest INR on ___ was 2.1 and she 
will be restarted on coumadin at 6mg.  She should have f/u INR 
check on ___ and have her coumadin dose adjusted 
accordingly.
  
# ASTHMA: This was stable during this admission.  She continue 
Singulair and Advair.  

 
Medications on Admission:
Topamax 200 mg b.i.d.;  
Lamictal 100 mg b.i.d.;  
verapamil 40 mg b.i.d.;  
Coumadin 4 mg daily  
Effexor 150 po q am  
225 pop q pm  
vitamin B12,  
Singulair 10 mg daily,  
Combivent 2 puffs 4 times a day,  
Advair 500/50 mcg 2 puffs b.i.d.  
Frova 2.5 mg p.o. daily  
Trazadone 100mg qhs  
Klonopin 0.5 qhs  
 
Discharge Medications:
1. Topiramate 100 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
2. Lamotrigine 100 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. Venlafaxine 75 mg Tablet Sig: Two (2) Tablet PO QAM (once a 
day (in the morning)).  
4. Venlafaxine 75 mg Tablet Sig: Three (3) Tablet PO QPM (once a 
day (in the evening)).  
5. Cyanocobalamin 100 mcg Tablet Sig: 0.5 Tablet PO DAILY 
(Daily).  
6. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.  
8. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed.  
9. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).
Disp:*90 Tablet(s)* Refills:*2*
12. Sodium Chloride 1 gram Tablet Sig: Two (2) Tablet PO TID (3 
times a day).
Disp:*90 Tablet(s)* Refills:*2*
13. Midodrine 5 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).
Disp:*180 Tablet(s)* Refills:*2*
14. Warfarin 2 mg Tablet Sig: Three (3) Tablet PO DAILY16 (Once 
Daily at 16).  
15. Sumatriptan Succinate 6 mg/0.5 mL Solution Sig: One (1)  
Subcutaneous X1 (ONE TIME) as needed for migraine.  
16. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
17. Prochlorperazine Maleate 5 mg Tablet Sig: One (1) Tablet PO 
ONCE MR1 (Once and may repeat 1 time) as needed for nausea for 1 
doses.  
18. Sodium Chloride 1 gram Tablet Sig: Two (2) Tablet PO three 
times a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Loss of consciousness

SECONDARY:
Asthma.  
Fibromyalgia 
Chronic fatigue syndrome.  
Migraine headaches.  
Antithrombin III deficiency 
Seizure disorder
Depression
Chronic pain syndrome.  

 
Discharge Condition:
Hemodynamically stable, afebrile, ambulating

 
Discharge Instructions:
You were admitted for loss of consciousness and underwent an 
evaluation by Electrophysiology and Neurology.  This episode of 
loss of conciousness was not likely a seizure.  You also had 
Tilt table testing which showed you had fast heart rate with 
standing up and were started on salt tablets and new medications 
florinef and midodrine.

You should not drive for 6 months given this episode of loss of 
conciousness.

Please take all medications as prescribed.  Keep all 
appointments listed below.  If you have any of the following, or 
any symptoms concerning to you, please call your doctor or go to 
the Emergency Department as soon as possible:

1. loss of consciousness
2. lightheaded
3. chest pain
4. shortness of breath
5. palpitations
 
Followup Instructions:
___